US04081477
(+)-Pinane-3-carboxylic acid amide
2g of (+)-pinane-3-carboxylic acid chloride are mixed with concentrated aqueous ammonia solution; the corresponding carboxylic acid amide precipitates and is filtered off and dried. It melts at 131° C and has an optical rotation of [α]D24 = +22.4° (c = 1, methanol).

reactant | (+)-pinane-3-carboxylic acid chloride | C12C(C(CC(C1(C)C)C2)C(=O)Cl)C | C11H17ClO
reactant | ammonia | N | H3N
product | (+)-Pinane-3-carboxylic acid amide | C12C(C(CC(C1(C)C)C2)C(=O)N)C | C11H19NO
